US04118500
In the same manner as indicated in Example 6 there are electrolyzed 19.3 g of 1-formyl-2,2-dimethylazetidine and 54.7 g of methanol in the presence of 0.27 g of tetramethylammonium tetrafluoroborate as conducting salt. After throughput of 2.5 Faraday per mol of 1-formyl-2,2-dimethoxyazetidine the current is switched off. The calculated mean cell voltage is 32.6 volts. Work-up of the electrolysis solution gives 12.2 g of 1-formyl-4-methoxy-2,2-dimethylazetidine (boiling point 52° C./0.26 mbar; nD25 = 1.4496), which corresponds to a product yield of 49.9% and a current efficiency of 39.9%.

reactant | 1-formyl-2,2-dimethylazetidine | 19.3 g | C(=O)N1C(CC1)(C)C | C6H11NO
reactant | 1-formyl-2,2-dimethoxyazetidine | C(=O)N1C(CC1)(OC)OC | C6H11NO3
catalyst | tetramethylammonium tetrafluoroborate | 0.27 g | F[B-](F)(F)F.C[N+](C)(C)C
solvent | methanol | 54.7 g | CO | CH4O
product | 1-formyl-4-methoxy-2,2-dimethylazetidine | 12.2 g | C(=O)N1C(CC1OC)(C)C | C7H13NO2
